* File: G5_XOR3_N1.pex.netlist.pex
* Created: Fri Feb 18 11:21:25 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G5_XOR3_N1_VDD 2 5 9 12 14 17 34 35 44 45 54 55 77 81 83 86 88 90 91
+ 92 94 100 101 102 126 135 140 Vss
c131 140 Vss 0.00417689f
c132 135 Vss 0.00488545f
c133 126 Vss 0.00508236f
c134 102 Vss 5.89419e-19
c135 101 Vss 6.40975e-19
c136 100 Vss 0.00242258f
c137 94 Vss 0.0262355f
c138 92 Vss 0.00119767f
c139 91 Vss 0.00196575f
c140 90 Vss 0.0138661f
c141 88 Vss 0.0110669f
c142 86 Vss 0.0389686f
c143 83 Vss 0.00768501f
c144 81 Vss 0.00638165f
c145 77 Vss 0.00282172f
c146 55 Vss 0.0355813f
c147 54 Vss 0.0994989f
c148 45 Vss 0.0347884f
c149 44 Vss 0.0994363f
c150 35 Vss 0.0351719f
c151 34 Vss 0.100036f
c152 17 Vss 0.162779f
c153 14 Vss 0.00205287f
c154 12 Vss 0.00226958f
c155 9 Vss 0.163254f
c156 5 Vss 0.165154f
c157 2 Vss 0.00203268f
r158 116 140 1.16709
r159 114 135 1.16709
r160 108 126 1.16709
r161 100 101 0.496596
r162 94 120 10.4344
r163 92 111 0.499319
r164 90 114 5.1348
r165 90 94 5.54325
r166 90 91 11.8742
r167 89 102 0.291337
r168 88 108 12.7592
r169 88 92 1.89134
r170 88 89 11.3481
r171 87 103 0.0554049
r172 86 116 5.835
r173 86 87 14.6523
r174 84 91 1.3133
r175 84 100 1.36564
r176 83 103 2.94944
r177 82 102 0.331537
r178 82 83 0.887935
r179 79 102 0.331537
r180 79 81 2.0803
r181 77 106 5.41064
r182 77 81 3.04435
r183 77 101 1.24311
r184 57 140 0.238214
r185 55 57 1.45875
r186 54 58 0.652036
r187 54 57 1.45875
r188 51 55 0.652036
r189 47 135 0.238214
r190 45 47 1.45875
r191 44 48 0.652036
r192 44 47 1.45875
r193 41 45 0.652036
r194 37 126 0.238214
r195 35 37 1.45875
r196 34 38 0.652036
r197 34 37 1.45875
r198 31 35 0.652036
r199 17 58 2.5674
r200 17 51 2.5674
r201 14 120 1.16709
r202 12 111 1.16709
r203 9 48 2.5674
r204 9 41 2.5674
r205 5 38 2.5674
r206 5 31 2.5674
r207 2 106 1.16709
.ends

.subckt PM_G5_XOR3_N1_C 2 4 6 8 17 20 40 43 47 52 57 62 85 87 96 97 Vss
c58 97 Vss 8.35445e-19
c59 96 Vss 5.69828e-19
c60 87 Vss 0.00397153f
c61 85 Vss 0.00626369f
c62 62 Vss 0.00258068f
c63 57 Vss 0.00561084f
c64 52 Vss 0.00201183f
c65 47 Vss 7.16941e-19
c66 43 Vss 4.804e-19
c67 40 Vss 4.57814e-19
c68 20 Vss 0.221153f
c69 17 Vss 0.0714141f
c70 15 Vss 0.0247918f
c71 8 Vss 0.00231756f
c72 4 Vss 0.0826049f
r73 88 97 0.0685365
r74 87 89 0.652036
r75 87 88 10.3363
r76 85 97 0.0685365
r77 85 96 24.7154
r78 52 89 2.08393
r79 47 62 1.16709
r80 47 97 2.00057
r81 43 57 1.16709
r82 43 96 0.51897
r83 40 43 0.0833571
r84 23 57 0.0476429
r85 21 23 0.326018
r86 21 23 0.1167
r87 20 24 0.652036
r88 20 23 6.7686
r89 17 57 0.357321
r90 15 23 0.326018
r91 15 17 0.40845
r92 8 52 1.16709
r93 6 62 0.8
r94 4 24 2.5674
r95 2 17 2.15895
.ends

.subckt PM_G5_XOR3_N1_VSS 3 6 11 15 18 34 35 44 45 54 55 73 78 83 88 93 98 107
+ 113 122 126 127 129 130 131 133 137 138 153 Vss
c129 153 Vss 0.0105451f
c130 138 Vss 0.00168663f
c131 137 Vss 6.83032e-19
c132 133 Vss 0.00347932f
c133 131 Vss 0.011931f
c134 130 Vss 0.00590674f
c135 129 Vss 0.0099782f
c136 128 Vss 0.00452485f
c137 127 Vss 0.0138863f
c138 126 Vss 0.00831934f
c139 122 Vss 0.00909016f
c140 113 Vss 0.00348696f
c141 107 Vss 0.00382677f
c142 98 Vss 0.00428326f
c143 93 Vss 3.86176e-19
c144 88 Vss 2.11529e-19
c145 83 Vss 7.18093e-20
c146 78 Vss 4.68606e-19
c147 73 Vss 2.47125e-19
c148 55 Vss 0.034785f
c149 54 Vss 0.0991272f
c150 45 Vss 0.0359107f
c151 44 Vss 0.0994583f
c152 35 Vss 0.035166f
c153 34 Vss 0.0995403f
c154 18 Vss 0.00259162f
c155 15 Vss 0.160018f
c156 11 Vss 0.161579f
c157 6 Vss 0.00155055f
c158 3 Vss 0.166974f
r159 138 153 0.465335
r160 137 138 3.53532
r161 133 153 0.21394
r162 129 133 2.52179
r163 129 130 6.07645
r164 127 131 3.39649
r165 127 128 6.56655
r166 124 130 0.663663
r167 124 126 2.01573
r168 122 126 0.880555
r169 121 128 1.18173
r170 121 122 2.62045
r171 107 110 0.3
r172 93 137 0.560517
r173 88 113 1.16709
r174 88 131 14.1835
r175 83 110 1.16709
r176 83 129 9.5305
r177 78 127 19.9288
r178 73 98 1.16709
r179 73 122 27.3078
r180 57 113 0.238214
r181 55 57 1.45875
r182 54 58 0.652036
r183 54 57 1.45875
r184 51 55 0.652036
r185 47 107 0.0952857
r186 45 47 1.45875
r187 44 48 0.652036
r188 44 47 1.45875
r189 41 45 0.652036
r190 37 98 0.238214
r191 35 37 1.45875
r192 34 38 0.652036
r193 34 37 1.45875
r194 31 35 0.652036
r195 18 93 1.16709
r196 15 58 2.5674
r197 15 51 2.5674
r198 11 48 2.5674
r199 11 41 2.5674
r200 6 78 1.16709
r201 3 38 2.5674
r202 3 31 2.5674
.ends

.subckt PM_G5_XOR3_N1_CI 2 6 8 34 39 44 79 80 82 84 89 90 93 Vss
c70 93 Vss 0.00213727f
c71 90 Vss 2.19877e-19
c72 89 Vss 2.06593e-19
c73 84 Vss 8.14575e-20
c74 82 Vss 0.00102072f
c75 80 Vss 4.60101e-19
c76 79 Vss 0.00347769f
c77 44 Vss 0.00209484f
c78 39 Vss 8.45362e-19
c79 34 Vss 0.00242257f
c80 8 Vss 0.00271742f
c81 6 Vss 0.00208085f
c82 2 Vss 0.00153254f
r83 90 93 10.3363
r84 84 89 1.70882
r85 82 84 0.652036
r86 81 82 3.62604
r87 79 81 0.652036
r88 79 80 18.9638
r89 75 80 0.652036
r90 44 93 0.521797
r91 39 90 0.521797
r92 39 89 0.521797
r93 34 75 4.33457
r94 8 44 1.16709
r95 6 39 1.16709
r96 2 34 1.16709
.ends

.subckt PM_G5_XOR3_N1_A 2 4 7 11 21 24 45 49 51 54 55 56 57 60 66 69 74 Vss
c79 74 Vss 0.00223036f
c80 69 Vss 0.0048591f
c81 66 Vss 2.79139e-19
c82 57 Vss 2.53655e-19
c83 56 Vss 3.52782e-19
c84 55 Vss 0.00536314f
c85 54 Vss 0.00431789f
c86 51 Vss 0.00514273f
c87 49 Vss 0.131295f
c88 45 Vss 0.126067f
c89 24 Vss 0.213925f
c90 21 Vss 0.0746499f
c91 19 Vss 0.0247918f
c92 7 Vss 1.01247f
c93 4 Vss 0.0850321f
r94 74 77 0.5
r95 66 74 1.16709
r96 62 69 1.16709
r97 60 62 0.125036
r98 57 60 0.208393
r99 55 66 0.0685365
r100 55 56 10.4613
r101 53 56 0.652036
r102 53 54 8.66914
r103 52 57 0.0685365
r104 51 54 0.652036
r105 51 52 10.2113
r106 47 49 4.53833
r107 44 77 0.381143
r108 44 45 2.26917
r109 41 44 2.26917
r110 36 49 0.00605528
r111 35 45 0.00605528
r112 32 47 0.00605528
r113 31 41 0.00605528
r114 27 69 0.0952857
r115 25 27 0.326018
r116 25 27 0.1167
r117 24 28 0.652036
r118 24 27 6.7686
r119 21 27 0.3335
r120 19 27 0.326018
r121 19 21 0.2334
r122 11 36 2.5674
r123 11 32 2.5674
r124 7 11 12.837
r125 7 35 2.5674
r126 7 11 12.837
r127 7 31 2.5674
r128 4 28 2.5674
r129 2 21 2.334
.ends

.subckt PM_G5_XOR3_N1_BI 2 6 8 21 32 37 42 52 57 66 72 73 Vss
c65 73 Vss 3.6752e-19
c66 72 Vss 7.31231e-19
c67 66 Vss 0.00142869f
c68 57 Vss 0.00165074f
c69 52 Vss 0.00140496f
c70 42 Vss 0.00114091f
c71 37 Vss 0.00162808f
c72 32 Vss 0.00227363f
c73 21 Vss 0.0573997f
c74 6 Vss 0.0573997f
c75 2 Vss 0.0015046f
r76 72 73 0.65228
r77 71 72 3.42052
r78 66 71 0.65409
r79 42 57 1.16709
r80 42 73 2.1395
r81 37 52 1.16709
r82 37 77 12.0712
r83 37 66 1.96931
r84 32 49 1.16709
r85 32 77 2.08393
r86 21 57 0.50025
r87 18 52 0.50025
r88 8 21 1.80885
r89 6 18 1.80885
r90 2 49 0.1
.ends

.subckt PM_G5_XOR3_N1_AI 2 7 11 31 37 46 51 60 80 83 Vss
c51 83 Vss 0.00239235f
c52 80 Vss 4.81935e-19
c53 60 Vss 0.005091f
c54 51 Vss 0.00122708f
c55 46 Vss 0.00185845f
c56 37 Vss 0.125141f
c57 31 Vss 0.130065f
c58 7 Vss 1.00014f
c59 2 Vss 0.0015046f
r60 80 83 13.1704
r61 75 80 0.652036
r62 60 63 0.1
r63 51 63 1.16709
r64 51 83 0.516616
r65 46 75 2.62575
r66 36 60 0.262036
r67 36 37 2.334
r68 33 36 2.20433
r69 29 31 4.53833
r70 26 37 0.00605528
r71 25 31 0.00605528
r72 22 33 0.00605528
r73 21 29 0.00605528
r74 11 26 2.5674
r75 11 22 2.5674
r76 7 11 12.837
r77 7 25 2.5674
r78 7 11 12.837
r79 7 21 2.5674
r80 2 46 1.16709
.ends

.subckt PM_G5_XOR3_N1_B 2 4 6 8 16 17 26 38 42 45 50 55 60 65 73 74 80 87 92 93
+ Vss
c89 93 Vss 1.08966e-19
c90 92 Vss 0.00170846f
c91 87 Vss 3.30842e-19
c92 80 Vss 8.14476e-19
c93 74 Vss 4.04445e-19
c94 73 Vss 0.00303887f
c95 65 Vss 0.00148695f
c96 60 Vss 0.00104976f
c97 55 Vss 0.00440579f
c98 50 Vss 0.00137864f
c99 45 Vss 6.70219e-19
c100 42 Vss 5.08393e-19
c101 38 Vss 6.29995e-19
c102 26 Vss 0.0573997f
c103 20 Vss 0.0247918f
c104 17 Vss 0.0348933f
c105 16 Vss 0.185459f
c106 8 Vss 0.0573997f
c107 4 Vss 0.0714013f
c108 2 Vss 0.0826042f
r109 91 93 0.65228
r110 91 92 3.46076
r111 87 92 0.65228
r112 83 87 2.1006
r113 80 83 2.04225
r114 73 80 0.0685365
r115 73 74 10.3363
r116 69 74 0.652036
r117 50 65 1.16709
r118 50 93 2.1395
r119 45 60 1.16709
r120 45 83 0.0416786
r121 38 55 1.16709
r122 38 69 2.16729
r123 38 42 0.0530455
r124 36 55 0.0476429
r125 33 65 0.50025
r126 26 60 0.50025
r127 24 55 0.357321
r128 20 36 0.326018
r129 20 24 0.40845
r130 17 36 6.7686
r131 16 36 0.326018
r132 16 36 0.1167
r133 13 17 0.652036
r134 8 33 1.80885
r135 6 26 1.80885
r136 4 24 2.15895
r137 2 13 2.5674
.ends

.subckt PM_G5_XOR3_N1_Z 2 4 30 33 Vss
c34 30 Vss 0.00296431f
c35 4 Vss 0.00148239f
c36 2 Vss 0.00166246f
r37 33 35 4.50129
r38 30 33 4.668
r39 4 35 1.16709
r40 2 30 1.16709
.ends

